US06140332
Step 11.2: 6-(3-Methoxy-phenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-ol
Under a protective gas, 7.19 g (29 mmol) of 2-amino-3-ethoxycarbonyl-5-(3-methoxy-phenyl)-1H-pyrrole in 59 ml of formamide, 29.5 ml of DMF and 14.7 ml of formic acid are heated at 150° C. overnight. Working-up analogously to Step 8.2 yields the title compound; TLC-Rf =0.3 (hexane/ethyl acetate [1:1]).

reactant | 2-amino-3-ethoxycarbonyl-5-(3-methoxy-phenyl)-1H-pyrrole | 29 mmol, 7.19 g | NC=1NC(=CC1C(=O)OCC)C1=CC(=CC=C1)OC | C14H16N2O3
reactant | formamide | 59 ml | C(=O)N | CH3NO
solvent | DMF | 29.5 ml | CN(C)C=O | C3H7NO
solvent | formic acid | 14.7 ml | C(=O)O | CH2O2
product | 6-(3-Methoxy-phenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-ol | COC=1C=C(C=CC1)C1=CC2=C(N=CN=C2O)N1 | C13H11N3O2
